US07304164B1
Nitronium tetrafluoroborate (NO2BF4, 5.0 g, 37.6 mmol) was added to the solid of 1-methyl-2,4-dinitroimidazole (4.0 g, 23.3 mmol) at room temperature. Then the reaction temperature was brought to 105° C. within 15 minutes. At that temperature, all solids melted. The reaction mixture was then stirred at that temperature for 1.5 hrs, then cooled to room temperature and diluted with methylene chloride before being poured onto ice/water. The product was extracted with methylene chloride (3×60 ml). The combined organic phase was washed successively with water (50 ml), 10% aq. NaHCO3 (30 ml), and water (50 ml) and dried over Na2SO4. The solvent was removed in vacuo and the residue was recrystallized with ethanol to give 3.72 g (74%) of 1-methyl-2,4,5-trinitroimidazole as pale yellow crystals, mp=84.0-85.0° C. (literature, mp=82° C.). The structure of the compound was confirmed by NMR spectroscopy.

reactant | Nitronium tetrafluoroborate | 37.6 mmol, 5.0 g | F[B-](F)(F)F.O=[N+]=O
reactant | 1-methyl-2,4-dinitroimidazole | 23.3 mmol, 4.0 g | CN1C(=NC(=C1)[N+](=O)[O-])[N+](=O)[O-] | C4H4N4O4
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-methyl-2,4,5-trinitroimidazole | 3.72 g, 74% | CN1C(=NC(=C1[N+](=O)[O-])[N+](=O)[O-])[N+](=O)[O-] | C4H3N5O6
